US04643990
A solution of dibenzyl N-(N-tert-butoxycarbonyl-L-valyl)glutamate (1 g) and anisole (1 ml) in trifluoroacetic acid (2 ml) was stirred at 0° C. for 1 hour. Evaporation of trifluoroacetic acid under reduced pressure gave a residue which was taken up in benzene. Benzene was distilled off by using high vacuum pump. This operation was repeated three times to leave crude dibenzyl N-(L-valyl)-L-glutamate, which was dissolved in tetrahydrofuran (20 ml). To this solution was added triethylamine (1 ml) and n-octanoyl chloride (0.7 ml) at 0° C., and the resulting mixture was stirred at room temperature for 1 hour. The reaction mixture was diluted with chloroform and the organic layer was washed with 1N hydrochloric acid solution, aqueous sodium carbonate solution and brine successively, dried over magnesium sulfate. After solvent was evaporated, the residue was crystallized from ethyl acetate to afford white amorphous powder of dibenzyl N-(N-octanoyl-L-valyl)-L-glutamate (600 mg).

reactant | dibenzyl N-(N-tert-butoxycarbonyl-L-valyl)glutamate | 1 g | C(C)(C)(C)OC(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CCC(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C29H38N2O7
reactant | anisole | 1 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
reactant | n-octanoyl chloride | 0.7 ml | C(CCCCCCC)(=O)Cl | C8H15ClO
solvent | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | dibenzyl N-(N-octanoyl-L-valyl)-L-glutamate | 600 mg | C(CCCCCCC)(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CCC(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C32H44N2O6
